US07312225B2
9a) Production of N-(4-Amino-butyl)-3-nitro-benzamide
2.27 g (6.72 mmol) of [4-(3-nitro-benzoylamino)-butyl]-carbamic acid-tert-butyl ester is mixed with 9 ml of trifluoroacetic acid and stirred for 3 hours at room temperature. The batch is carefully added to 2N NaOH solution and then extracted from ethyl acetate. The combined organic phases are filtered through a Whatman filter and concentrated by evaporation. The crude product that is obtained is recrystallized from ethanol/diisopropyl ether. 519 mg (2.19 mmol, corresponding to 33% of theory) of the product is obtained.

reactant | [4-(3-nitro-benzoylamino)-butyl]-carbamic acid-tert-butyl ester | 6.72 mmol, 2.27 g | C(C)(C)(C)OC(NCCCCNC(C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C16H23N3O5
reactant | trifluoroacetic acid | 9 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 2N | [OH-].[Na+]
product | N-(4-Amino-butyl)-3-nitro-benzamide | NCCCCNC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C11H15N3O3
